US06177452B1
A mixture of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid(500mg), potassium carbonate(310 mg), iodoethane(350mg) and N,N-dimethylformamide(10 ml) was stirred at room temperature for 16 hours. Water was added to the mixture, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried(MgSO4). The solvent was evaporated and the 15 crystals thus precipitated were collected by filtration. These were recrystallized from acetone-hexane to give colorless of ethyl 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate(495mg, 91%). mp 70-71° C.

reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid | 500mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1C(=NC=C1)C | C16H14ClN3O3
reactant | potassium carbonate | 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 350mg | ICC | C2H5I
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate | 495mg, 91% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OCC)N1C(=NC=C1)C | C18H18ClN3O3
